US07071189B2
2-(2-difluoromethylbenzimidazol-1-yl)-4-(cis-2,3-dimethylmorpholino)-6-morpholino-1,3,5-triazine (compound 13)
11.8 g (50 mmol) of 2,4-dichloro-6-morpholino-1,3,5-triazine, 8.41 g (50 mmol) of 2-difluoromethyl-benzimidazole and 55.3 g (400 mmol) of anhydrous potassium carbonate added to DMF (250 ml) were stirred at room temperature for 16 hours. The reaction solution was poured into water and the resulting precipitates were washed with DMF and ethanol to obtain 15.7 g (yield: 86%) of 4-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-6-morpholino-1,3,5-triazine. (2) 0.36 g (0.98 mmol) of the obtained 4-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-6-morpholino-1,3,5-triazine, 0.16 g (1.0 mmol) of cis-2,3-dimethylmorpholine hydrochloride and 0.3 g (2.2 mmol) of anhydrous potassium carbonate added to DMF (10 ml) were stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The separated organic layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography to obtain 0.38 g (yield: 87%) of the titled compound as colorless crystals.

reactant | 4-chloro-2-(2-difluoromethylbenzimidazol-1-yl)-6-morpholino-1,3,5-triazine | 0.98 mmol, 0.36 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | cis-2,3-dimethylmorpholine hydrochloride | 1.0 mmol, 0.16 g | Cl.C[C@@H]1[C@@H](NCCO1)C
reactant | potassium carbonate | 2.2 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(2-difluoromethylbenzimidazol-1-yl)-4-(cis-2,3-dimethylmorpholino)-6-morpholino-1,3,5-triazine | 0.38 g, yield: 87% | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1[C@@H]([C@@H](OCC1)C)C)N1CCOCC1)C=CC=C2)F | C21H25F2N7O2
